US05556864
28(a) 2-{2-[4-(2-Naphthyl)butyl]phenoxymethyl}oxirane
Following a procedure similar to that described in Example 1(a), 300 mg of 2-[4-(2-naphthyl)butyl]phenol (prepared as described in Preparation 15), 122 mg of potassium t-butoxide and 301 mg of epibromohydrin were reacted in 15 ml of dimethylacetamide. The crude product, extracted as described in Example 1(a), was purified as described in Example 1(a), to give 303 mg (yield 84%) of the title compound as a colorless oil.

reactant | 2-[4-(2-naphthyl)butyl]phenol | 300 mg | C1=C(C=CC2=CC=CC=C12)CCCCC1=C(C=CC=C1)O | C20H20O
reactant | potassium t-butoxide | 122 mg | CC(C)([O-])C.[K+]
reactant | epibromohydrin | 301 mg | C(Br)C1CO1 | C3H5BrO
solvent | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
product | 2-{2-[4-(2-Naphthyl)butyl]phenoxymethyl}oxirane | 303 mg, yield 84% | C1=C(C=CC2=CC=CC=C12)CCCCC1=C(OCC2OC2)C=CC=C1 | C23H24O2
